US07402592B2
Ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate ethylene ketal
3-Azabicyclo[3.2.1]octan-6-one ethylene ketal (7.69 g, 45.5 mmol) was dissolved in methylene chloride (200 ml) and chilled to 0° C. To this solution was added triethylamine (6.34 ml, 91.0 mmol), then ethyl chloroformate (4.02 ml, 50.1 mmol) drop-wise. The reaction was warmed to ambient temperature and stirred for 18 h. Saturated sodium bicarbonate solution (100 ml) was added, and the organic layer was separated. The aqueous layer was saturated with sodium chloride and extracted with methylene chloride (1×100 ml). The organics were then combined, dried over sodium sulfate, filtered and concentrated. The crude brown residue was then distilled on a Kugelrohr apparatus (0.2 mm Hg, unknown temperature) to yield a clear, dark brown oil (6.72 g, 61.3%).

reactant | 3-Azabicyclo[3.2.1]octan-6-one ethylene ketal | 45.5 mmol, 7.69 g | C1COC2(C3CNCC(C2)C3)O1 | C9H15NO2
reactant | triethylamine | 91.0 mmol, 6.34 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 50.1 mmol, 4.02 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate ethylene ketal | 6.72 g, 61.3% | C1COC(OCC)(N2CC3CC(C(C2)C3)=O)O1 | C12H19NO4
